US04435422
(±) Ethyl 6,7-dichloro-2,3-dihydro-5-(p-hydroxybenzyl)-benzofuran-2-carboxylate
To trifluoroacetic acid (120 ml.) under a nitrogen atmosphere were added sodium borohydride pellets (5.39 g.) over a period of 30 minutes at 5° C. A solution of ethyl 6,7-dichloro-2,3-dihydro-5-(p-hydroxybenzoyl)-benzofuran-2-carboxylate (7.35 g.) in methylene chloride (50 ml.) was then added dropwise over 30 minutes, and the mixture stirred at room temperature for 22 hours.

reactant | trifluoroacetic acid | 120 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethyl 6,7-dichloro-2,3-dihydro-5-(p-hydroxybenzoyl)-benzofuran-2-carboxylate | 7.35 g | ClC1=C(C2=C(CC(O2)C(=O)OCC)C=C1C(C1=CC=C(C=C1)O)=O)Cl | C18H14Cl2O5
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | (±) Ethyl 6,7-dichloro-2,3-dihydro-5-(p-hydroxybenzyl)-benzofuran-2-carboxylate | ClC1=C(C2=C(CC(O2)C(=O)OCC)C=C1CC1=CC=C(C=C1)O)Cl | C18H16Cl2O4
